US06864285B1
Preparation of N-[3-(ethoxycarbonyl)oxypropyl]hexadecanamide (PPA-EC)
3.14 g of N-(3-hydroxypropyl) hexadecanamide (10 mmoles) was suspended in 75 ml of tetrahydrofuran (THF) at 45° C. with stirring. 1.11 g of N-methylmorpholine (11 mmoles) and 1.19 g of ethyl chloroformate (11 mmoles) were added and the resulting mixture was stirred for a further 3 hours at ambient temperature. The mixture was then evaporated to dryness under vacuum. The residue was taken up with 50 ml of water and extracted 3 times with 30 ml of ethyl acetate; the organic phases were washed twice with 20 ml of water, recombined and evaporated to dryness. The residue was crystallized from 30 ml of tert-butylmethyl ether. The crystallizate was separated by filtration, washed twice with 5 ml of cold tert-butylmethyl ether and finally dried in a high degree of vacuum. The yield of the reaction was 92%.

reactant | N-(3-hydroxypropyl) hexadecanamide | 10 mmoles, 3.14 g | OCCCNC(CCCCCCCCCCCCCCC)=O | C19H39NO2
reactant | N-methylmorpholine | 11 mmoles, 1.11 g | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 11 mmoles, 1.19 g | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | N-[3-(ethoxycarbonyl)oxypropyl]hexadecanamide | C(C)OC(=O)OCCCNC(CCCCCCCCCCCCCCC)=O | C22H43NO4
